US05629343
N- (2-Acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine, N-phenylamide
To a solution of N-(2-acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine (derived from the higher RfTLC fraction) (182 mg. 0.5 mmole) in 2 mL of THF at 0° C. was added aniline (93 mg, 1.0 mmole) and 1-hydroxybenzotriazole hydrate (HOBT·H2O, 101 mg, 0.75 mole) and N-methylmorpholine (202 mg, 2.0 mmole). The mixture was stirred at 0° C. for 15 minutes, then 192 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC·HCl, 1.0 mmole) was added and the mixture stirred overnight. The solution was worked up by adding 7 mL methylene chloride and the mixture extracted with 3×3 ml of 5% sodium bicarbonate, then 2×2 mL of brine. The organic layer was dried over MgSO4, filtered and the solvent removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluted with methylene chloride/ethyl acetate (90/10) to obtain 110 mg of product (yield =50%). By 1H-NMR, we see two rotomers present at room temperature.

reactant | N-(2-acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine | C(C)(=O)SCC(C(=O)N[C@@H](CC(C)C)C(=O)O)CCC1=CC=CC=C1 | C19H27NO4S
reactant | aniline | 1.0 mmole, 93 mg | NC1=CC=CC=C1 | C6H7N
reactant | 1-hydroxybenzotriazole hydrate | 0.75 mole, 101 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 2.0 mmole, 202 mg | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.0 mmole, 192 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | N- (2-Acetylthiomethyl-4-phenylbutanoyl)-(L)-leucine, N-phenylamide | 110 mg, 50% | C1(=CC=CC=C1)NC([C@@H](NC(C(CCC1=CC=CC=C1)CSC(C)=O)=O)CC(C)C)=O | C25H32N2O3S
